US07253196B2
2-(Tricyclo[3.3.1.0˜3,7˜]non-3-ylamino)-1,3-thiazol-4(5 H)-one
Synthesis was performed from N-tricyclo[3.3.1.0˜3,7˜]non-3-ylthiourea and ethyl bromoacetate according to Method D1.

reactant | N-tricyclo[3.3.1.0˜3,7˜]non-3-ylthiourea | C12CC3(CC(CC3C1)C2)NC(=S)N | C10H16N2S
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 2-(Tricyclo[3.3.1.0˜3,7˜]non-3-ylamino)-1,3-thiazol-4(5 H)-one | C12CC3(CC(CC3C1)C2)NC=2SCC(N2)=O | C12H16N2OS
